US08710236B2
Step 1: 4-[2-Benzyloxycarbonyl-2-(4-tert-butyl-phenyl)-propyl]-benzoic Acid Methyl Ester
A solution of LiHMDS in toluene (1.0M, 1.6 mL, 1.6 mmol) was cooled in a dry-ice acetone bath (−78° C.) and diluted with 3 mL of THF. A solution of 4-[2-Benzyloxycarbonyl-2-(4-tert-butyl-phenyl)-ethyl]-benzoic acid methyl ester (675 mg, prepared as described in Bioorg. Med. Chem Lett. 2004, 14, 2047-2050) in 5 mL of THF was added via cannula. The mixture was stirred at the same temperature 30 min. It was then transferred to an acetone/ice bath, where it was warmed to ˜10° C. over a 1.5 h period. The mixture was cooled back to −78° C. and iodomethane (0.11 mL) was added via syringe. The mixture was then stirred for a 2 h period while allowing it to warm up to room temperature (approximately 2 h). The mixture was poured over a mixture of ethyl acetate and ice cold aqueous ammonium chloride. The organic phase was washed with water and saturated aqueous sodium chloride and dried over magnesium sulfate. The residue obtained after removal of the solven was treated with hexanes/ethyl acetate to cause the formation to precipitate the title compound (307 mg, 44%) HNMR (500 MHz, DMSO-d6, selected signals): 5.12 (2H, ABquartet), 3.82 (3H, s), 3.47 (1H, d, J=13.0 Hz), 3.22 (1H, d, J=13.2 Hz), 1.37 (3H, s), 1.28 (9H, s)

reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | toluene | 1.6 mmol, 1.0M, 1.6 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-[2-Benzyloxycarbonyl-2-(4-tert-butyl-phenyl)-ethyl]-benzoic acid methyl ester | 675 mg | COC(C1=CC=C(C=C1)CC(C1=CC=C(C=C1)C(C)(C)C)C(=O)OCC1=CC=CC=C1)=O | C28H30O4
reactant | iodomethane | 0.11 mL | IC | CH3I
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-Benzyloxycarbonyl-2-(4-tert-butyl-phenyl)-propyl]-benzoic Acid Methyl Ester | COC(C1=CC=C(C=C1)CC(C)(C1=CC=C(C=C1)C(C)(C)C)C(=O)OCC1=CC=CC=C1)=O | C29H32O4
